US05284857
3-Bromo-2-t-butoxythiophene
A -78° C. solution of 2,3-dibromothiophene (Aldrich, 10.0 g, 41.3 mmol) in 150 mL of diethyl ether was treated with n-butyl lithium (2.5 M, 16.5 mL) over a 20 min period. The mixture was stirred 1h at -78° C. Magnesium bromide (13.0 g, 49.6 mmol) was added as a solid in two portions. The mixture was stirred at -780° C. for 1h and rt for 2h. t-Butylperbenzoate was added at 0° C. and the reaction was allowed to stir at ambient temperature overnight. The mixture was quenched with ice water (50 mL) and 2N HCl (25 mi). The organic layer was separated and washed once with ice cold 1 N NAOH, water and brine. The organic layer was dried over magnesium sulfate and concentrated to give 10.5 g (98%) of the title compound: MS: m/z 236 MH+); 1H NMR(CDCl3): d 1.36 (s, 9H), 6.61 (d, j=6.1 Hz, 1H) and 7.23 (d, J=6.1 Hz, 1H).

reactant | 2,3-dibromothiophene | 41.3 mmol, 10.0 g | BrC=1SC=CC1Br | C4H2Br2S
reactant | n-butyl lithium | 2.5 M, 16.5 mL | C(CCC)[Li]
reactant | Magnesium bromide | 49.6 mmol, 13.0 g | [Br-].[Mg+2].[Br-]
reactant | t-Butylperbenzoate | C(C)(C)(C)OOC(C1=CC=CC=C1)=O | C11H14O3
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 3-Bromo-2-t-butoxythiophene | 10.5 g, 98% | BrC1=C(SC=C1)OC(C)(C)C | C8H11BrOS
